US07618961B2
Methyl (2-{[(4-chlorophenyl)sulfonyl]amino}-5-methyl-1,3-thiazol-4-yl)acetate
The title compound was prepared from methyl 2-(2-amino-5-methyl-1,3-thiazol-4-yl)acetate and 4-chlorobenzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (29.2 mg) with purity >90%. LCMS (pos) m/z 361.2.

reactant | methyl 2-(2-amino-5-methyl-1,3-thiazol-4-yl)acetate | NC=1SC(=C(N1)CC(=O)OC)C | C7H10N2O2S
reactant | 4-chlorobenzenesulfonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | Methyl (2-{[(4-chlorophenyl)sulfonyl]amino}-5-methyl-1,3-thiazol-4-yl)acetate | ClC1=CC=C(C=C1)S(=O)(=O)NC=1SC(=C(N1)CC(=O)OC)C | C13H13ClN2O4S2
